US08957066B2
Trimethyl phosphonoacetate (20.6 g, 112 mmol) was dissolved in 350 mL THF. A 25% w/w NaOMe solution (25 mL) was then added at room temperature and the resulting mixture was stirred for 30 min. 1-(2-Phenoxyethyl)-1H-pyrazole-4-carbaldehyde (24 g, 111 mmol) dissolved in 150 mL THF was added and the reaction mixture was stirred for 5 h before being quenched with aqueous ammonium chloride and extracted with EtOAc. The combined organic layers were dried over Na2SO4, filtered, and concentrated under vacuum. The residue was purified by column chromatography using a gradient of hexane/EtOAc (30:1 to 1:2) to yield (E)-methyl 3-(1-(2-phenoxyethyl)-1H-pyrazol-4-yl)acrylate (22 g, 72.7%).

reactant | Trimethyl phosphonoacetate | 112 mmol, 20.6 g | COC(=O)CP(=O)(OC)OC | C5H11O5P
reactant | NaOMe | 25 mL | C[O-].[Na+]
reactant | 1-(2-Phenoxyethyl)-1H-pyrazole-4-carbaldehyde | 111 mmol, 24 g | O(C1=CC=CC=C1)CCN1N=CC(=C1)C=O | C12H12N2O2
solvent | THF | 350 mL | C1CCOC1 | C4H8O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | (E)-methyl 3-(1-(2-phenoxyethyl)-1H-pyrazol-4-yl)acrylate | 22 g, 72.7% | O(C1=CC=CC=C1)CCN1N=CC(=C1)/C=C/C(=O)OC | C15H16N2O3
